US05223498
Reaction of 3-n-butyl-1,1,3-trimethylurea (7 g) in benzene (60 ml) with 4-(2-aminophenyl)morpholine (7.2 g) in benzene (30 ml) in the presence of phosphorus oxychloride (4 ml) for 18 hours at 80°-85° C. gave 1-n-butyl-2-(2-morpholinophenyl)-1,3,3-trimethyl guanidine (bp. 162°-163° C. at 0.7 mm Hg).

reactant | 3-n-butyl-1,1,3-trimethylurea | 7 g | C(CCC)N(C(N(C)C)=O)C | C8H18N2O
reactant | 4-(2-aminophenyl)morpholine | 7.2 g | NC1=C(C=CC=C1)N1CCOCC1 | C10H14N2O
reactant | phosphorus oxychloride | 4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 1-n-butyl-2-(2-morpholinophenyl)-1,3,3-trimethyl guanidine | C(CCC)N(C(=NC1=C(C=CC=C1)N1CCOCC1)N(C)C)C | C18H30N4O
